Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Transferred from ___ for evaluation for tachyarrythmia  

 
Major Surgical or Invasive Procedure:
echocardiogram

 
History of Present Illness:
Agree with assessment of night float.  In short, ___ year-old 
female with SVT, atrial fibrilation, and hypertension tranferred 
from ___ to ___ for further evaluation of SVT.  She 
experienced fatigue and palpitations the day prior to 
presentation - she reports this occurs approximately once per 
week for several years.  On the evening of ___, she had 
syncope in bathroom following warm bath with subsequent trauma 
to chin. She does not recall feeling lightheaded, chest pain, 
palpitations, shortness of breath prior to or after the event. 
She did not have bowel or bladder incontinence. Following the 
incident she knew where she was; felt weak, shaky. This is the 
first time this has happeneded.  She reported distant 2 episodes 
of fainting in college. 
.  
At OSH, 118/58, 82 (lying) --> 114/58, hr 92 (standing). EKG 
with NSR at 83 with PACs. CT head without contrast was without 
acute intracranial process. Given lack of prodromal symptoms, 
concern for cardiac etiology to falls - patient was transferred 
to ___ for EP evaluation.  
.  
Of note, ___ monitoring on ___ showed sinus 44-121, mean of 
80 bps, many atrial premature beats, 128 runs of SVT (longest in 
50), no VT. Patient also reportedly with stress echo, unknown 
date, with ___ to ___epressions in unknown leads; EF>70%.  

.  
On arrival to ___, patient reports feeling well. She denies 
cheset pain, dyspnea on exertion, paroxysmal nocturnal dyspnea, 
orthopnea. She has occasional left ankle swelling.  On interview 
this AM, she is pleasant without complaints. 
.  
In other review of systems, she reports constipation. Otherwise 
without weight changes, fever, chills, cough, abdominal pain, 
nausea, vomiting, dysuria.  
.  

 
Past Medical History:
SVT  
PE in ___, on coumadin since  (? if she has afib ever)
Hypertension  
 
Social History:
___
Family History:
MGF with "bad heart." Mother with multiple MIs.
 
Physical Exam:
97.7, 117/69, 71, 18, 99% RA  
Gen: Comfortable.  
HEENT: Mild bruising periorbital (secondary to separate 
non-syncopal episode 2 weeks ago); sclera anicteric; MMM; 
dressing at chin  
Neck: Prominent carotid pulsation; no JVD  
CV: Regular with occasional ectopic beats; normal S1/S2; no 
murmurs appreciated  
Pulm: CTA bilaterally; no wheezes, rales, or rhonchi  
Abd: Normoactive bowel sounds; soft, NTND  
Ext: Venous stasis/varicose veins; no lower extremity edema; 
radial and ___ pulses 2+ and symmetric  

 
Pertinent Results:
___ 12:10AM BLOOD WBC-4.2 RBC-2.67* Hgb-8.9* Hct-26.1* 
MCV-98 MCH-33.3* MCHC-34.1 RDW-13.8 Plt ___
___ 05:50AM BLOOD WBC-3.6* RBC-3.00* Hgb-9.3* Hct-28.6* 
MCV-95 MCH-30.9 MCHC-32.4 RDW-13.6 Plt ___
___ 12:10AM BLOOD ___ PTT-28.0 ___
___ 05:50AM BLOOD ___ PTT-27.0 ___
___ 12:10AM BLOOD Glucose-99 UreaN-33* Creat-0.8 Na-142 
K-4.1 Cl-107 HCO3-27 AnGap-12
___ 05:50AM BLOOD Glucose-99 UreaN-20 Creat-0.8 Na-138 
K-4.5 Cl-102 HCO3-30 AnGap-11
___ 05:40AM BLOOD LD(LDH)-156 CK(CPK)-206*
___ 12:10AM BLOOD CK-MB-4 cTropnT-<0.01
___ 05:40AM BLOOD CK-MB-4 cTropnT-<0.01
___ 12:10AM BLOOD Calcium-8.7 Phos-3.6 Mg-2.0
___ 05:50AM BLOOD Calcium-9.1 Phos-4.3 Mg-2.2
___ 05:40AM BLOOD calTIBC-287 VitB12-461 Folate-GREATER TH 
___ Ferritn-39 TRF-221
___ 05:40AM BLOOD TSH-2.9

EKG ___, 22:38): Rate 72; sinus arrythemia; nl axis; nl 
intervals; Q waves III; incomplete RBBB; TWI V2-V3; no ST 
segment changes. No prior EKG available for comparison.  

___   Cardiology ECHO 
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect is seen by 2D or color Doppler. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Tissue Doppler imaging 
suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). There is no left ventricular outflow obstruction 
at rest or with Valsalva. There is no ventricular septal defect. 
The right ventricular cavity is mildly dilated with normal free 
wall contractility. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) are mildly thickened but aortic stenosis is not present. 
Trace aortic regurgitation is seen. The mitral valve leaflets 
are mildly thickened. Trivial mitral regurgitation is seen. The 
pulmonary artery systolic pressure could not be determined. 
There is an anterior space which most likely represents a 
prominent fat pad.  
 
Brief Hospital Course:
___ with SVT/atrial fibrilation, history of pulmonary embolism, 
and hypertension admitted with syncope.  
.  
Mrs ___ likely had a vasovagal incident given history of 
fainting following warm bath, tachycarrythmia may contribute to 
this event(known SVT, asymptomatic preceding syncope).  She was 
ruled out for MI.  However, workup did show anemia - for which 
she will get outpatient endoscopy and colonoscopy.  She will 
also be monitored by a holter monitor at an outpatient status.  
She will follow up with her PCP and cardiologist for her 
syncope. 
.  
#. Hypertension: BP currently well-controlled.  
- Verapamil per home regimen  
.  
#. History of pulmonary embolism:  coumadin was initially held 
but was restarted prior to discharge.  
.  
#. Dyslipidemia:  
- Simvastatin per home regimen  
.  
Full code 
.
#. Contact: ___ (cousin), ___, daughter 
___. 

 
Medications on Admission:
Coumadin 5mg PO all days except 5.5mg PO on W/Sa  
Verapamil SR 120mg PO daily  
Digoxin 0.125mg PO daily  
ASA 81mg PO daily  
MVI  
Simvastatin 10mg PO daily  
Calcium  
 
Discharge Medications:
1. Coumadin 1 mg Tablet Sig: Five (5) Tablet PO on ___, 
___ .  
2. Coumadin 1 mg Tablet Sig: 5.5 Tablets PO On ___, ___.  
3. Verapamil 120 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q24H (every 24 hours).  
4. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
6. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
9. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for Constipation.
Disp:*60 Tablet(s)* Refills:*2*
10. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).
Disp:*60 Capsule(s)* Refills:*2*
11. Bisa-Lax 5 mg Tablet, Delayed Release (E.C.) Sig: ___ 
Tablet, Delayed Release (E.C.)s PO once a day as needed for 
constipation.
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
syncope
superventricular tachycardia
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital for syncope.  We found that you had 
anemia which is new.  We determined that you will need a 
colonscopy and endoscopy as an outpatient.  You will need to 
monitor your heart rhythm at home (the device is being sent to 
you now).  You were discharged in stable condition. 

Please follow up with the following doctors. 

Please note we made the following changes to your medication. 
STARTED:
1. Docusate Sodium 100 mg by mouth twice a day
2. Senna 1 TAB by mouth twice a day as needed for Constipation  
3. Bisacodyl 10 mg by mouth DAILY as needed for constipation  

It was a pleasure taking care of you.  We wish you the best on 
your way to recovery. 
 
Followup Instructions:
___